US09447078B2
Preparation of 3-amino-1-(4-(cyclohexylmethoxy)thiophen-2-yl)propan-1-ol
Borane-dimethylsulfide reduction of 3-(4-(cyclohexylmethoxy)thiophen-2-yl)-3-oxopropanenitrile following the method used in Example 2 gave after flash chromatography purification (2%-20% 7N NH3/MeOH—CH2Cl2 gradient) Example 18 as a colorless oil. Yield (0.037 g, 43%); 1H NMR (400 MHz, CD3OD) δ 6.62 (dm J=1 Hz, 1H), 6.22 (d, J=1.4 Hz, 1H), 4.85 (m, 1H), 3.71 (d, J=6.3 Hz, 2H), 2.71-2.78 (m, 2H), 1.64-1.97 (m, 8H), 1.15-1.37 (m, 3H), 1.05-1.15 (m, 2H); RP-HPLC tR=9.63 min; ESI-MS m/z 223.1 [C13H18OS2.+H]+ or [M−H2O—CH2NH2+H]+.

reactant | Borane dimethylsulfide | B.CSC
reactant | 3-(4-(cyclohexylmethoxy)thiophen-2-yl)-3-oxopropanenitrile | C1(CCCCC1)COC=1C=C(SC1)C(CC#N)=O | C14H17NO2S
reactant | NH3 MeOH CH2Cl2 | 7N | N.CO.C(Cl)Cl
product | 3-amino-1-(4-(cyclohexylmethoxy)thiophen-2-yl)propan-1-ol | NCCC(O)C=1SC=C(C1)OCC1CCCCC1 | C14H23NO2S
